US06475486B1
Benzyl 1-deoxy-1-fluoro-α-D-glucuronate (Compound 4)
Sodium 1-deoxy-1-fluoro-α-D-glucuronate (6.22 g, 28.51 mmol) was suspended in DMF (350 ml), and benzyl bromide (4.89 g, 28.59 mmol) was added. The reaction mixture was stirred at 60° C. for 24 h and then evaporated. The residue was dissolved in 3:1 chloroform/methanol, and magnesium sulfate (12 g) was added. The suspension was stirred for 2 h and then filtered, and the filtrate was evaporated. The residue was purified by column chromatography on silica gel (160 g) with 4:1 dichloromethane/acetone.

reactant | Sodium 1-deoxy-1-fluoro-α-D-glucuronate | 28.51 mmol, 6.22 g | F[C@@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)C(=O)[O-].[Na+]
reactant | benzyl bromide | 28.59 mmol, 4.89 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 350 ml | CN(C)C=O | C3H7NO
product | Benzyl 1-deoxy-1-fluoro-α-D-glucuronate | F[C@@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)C(=O)OCC1=CC=CC=C1 | C13H15FO6
